US05457192
4.15 g (32.4 mmol) of 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose, 17.20 g (65.6 mmol) of triphenyl phosphine, and 3.94 g (65.6 mmol) of acetic acid were added to 30 ml of dry THF, and a solution obtained by dissolving 11.42 g (65.6 mmol) of diethylazodicarboxylate in 50 ml of dry THF was gradually dropped in the above mixture in a nitrogen-sealed ice-water bath. The resultant solution was stirred at room temperature for 24 hours. The reaction solution was neutralized with a 1% aqueous sodium hydrogencarbonate solution in the ice-water bath, and the THF was distilled at a reduced pressure. The residue was extracted using diethyl ether. The extract was dried with magnesium sulfate, and the diethyl ether was distilled at a reduced pressure. Triphenyl phosphine oxide as a byproduct was eliminated from the residue using a silica gel column (eluent: chloroform). The solvent was distilled from the resultant eluate at a reduced pressure, and the residue was purified using a silica gel column (hexane:ethyl acetate=5:1 to 3:1). The purified residue was distilled at a reduced pressure (2 mmHg) to obtain 2.82 g (yield: 51.2%) of 2-O-acetyl-1,6-anhydro-3,4-dideoxy-β-D-erythro-hex-3-enopyranose.

reactant | 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose | 32.4 mmol, 4.15 g | [C@H]12[C@@H](O)C=C[C@H](O1)CO2 | C6H8O3
reactant | triphenyl phosphine | 65.6 mmol, 17.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetic acid | 65.6 mmol, 3.94 g | C(C)(=O)O | C2H4O2
reactant | diethylazodicarboxylate | 65.6 mmol, 11.42 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-O-acetyl-1,6-anhydro-3,4-dideoxy-β-D-erythro-hex-3-enopyranose | 2.82 g, yield: 51.2% | C(C)(=O)O[C@H]1[C@H]2O[C@@H](C=C1)CO2 | C8H10O4
